.SubCkt GRJ43DR72J104KWJ1 [_net1] [_net2]
.param K01=1.0511e-07
.param M01=1.0000e+09
.param L02=4.5052e-10
.param M03=1.6444e-02
.param K04=1.1120e-05
.param M04=1.5223e+02
.param K05=1.2741e-05
.param M05=3.1930e+01
.param K06=1.0337e-05
.param M06=7.0521e+00
.param K07=9.5960e-06
.param M07=1.2886e+00
.param K08=8.7545e-06
.param M08=2.6073e-01
.param K09=6.3919e-06
.param M09=3.7951e-02
.param L10=2.1259e-11
.param M10=1.7890e-01
.param L11=1.3766e-10
.param M11=1.1885e-01
.param K12=2.5308e-07
.param L12=7.1857e-11
.param M12=9.3576e-02
.param K13=6.3936e-08
.param L13=1.0903e-10
.param M13=8.2244e-02
.param K14=3.2424e-11
.param L14=6.7818e-11
.param M14=5.3231e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GRJ43DR72J104KWJ1

.SubCkt GRJ43QR7LV154KW01 [_net1] [_net2]
.param K01=1.5495e-07
.param M01=6.6667e+08
.param L02=3.6430e-10
.param M03=2.2322e-02
.param K04=1.5580e-05
.param M04=1.2364e+02
.param K05=1.8063e-05
.param M05=2.4400e+01
.param K06=1.4929e-05
.param M06=5.5295e+00
.param K07=1.3628e-05
.param M07=1.0452e+00
.param K08=1.5771e-05
.param M08=1.3222e-01
.param K09=1.0958e-05
.param M09=3.3292e-02
.param L10=5.4177e-11
.param M10=1.9606e-01
.param L11=1.7174e-10
.param M11=7.8296e-02
.param K12=4.0999e-07
.param L12=4.0599e-11
.param M12=2.3003e-02
.param K13=2.6289e-07
.param L13=2.0057e-11
.param M13=1.8351e-02
.param K14=1.1147e-11
.param L14=1.9151e-10
.param M14=1.4077e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GRJ43QR7LV154KW01

.SubCkt GRJ43DR7LV224KW01 [_net1] [_net2]
.param K01=2.3323e-07
.param M01=4.5455e+08
.param L02=3.7115e-10
.param M03=1.5505e-02
.param K04=2.5225e-05
.param M04=6.5913e+01
.param K05=2.7845e-05
.param M05=1.4656e+01
.param K06=2.3554e-05
.param M06=3.2956e+00
.param K07=2.1015e-05
.param M07=6.6089e-01
.param K08=2.8850e-05
.param M08=9.9270e-02
.param K09=1.6451e-05
.param M09=3.0662e-02
.param L10=4.2216e-11
.param M10=5.4800e-02
.param L11=1.5779e-10
.param M11=4.8635e-02
.param K12=6.5979e-07
.param L12=5.8485e-11
.param M12=3.4600e-02
.param K13=2.3347e-07
.param L13=5.2489e-11
.param M13=3.1982e-02
.param K14=9.1812e-12
.param L14=2.5326e-10
.param M14=2.2624e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GRJ43DR7LV224KW01

.SubCkt GRJ43DR73A333KWJ1 [_net1] [_net2]
.param K01=3.4324e-08
.param M01=3.0303e+09
.param L02=2.9773e-10
.param M03=3.4701e-02
.param K04=4.1959e-06
.param M04=5.0396e+02
.param K05=4.7098e-06
.param M05=1.0493e+02
.param K06=4.1714e-06
.param M06=2.3340e+01
.param K07=3.9301e-06
.param M07=4.9397e+00
.param K08=3.2457e-06
.param M08=1.0816e+00
.param K09=3.2102e-06
.param M09=2.1109e-01
.param K10=2.1000e-06
.param M10=4.8388e-02
.param L11=6.1574e-11
.param M11=1.7230e-01
.param L12=1.0142e-10
.param M12=1.3733e-01
.param K13=1.0119e-07
.param L13=4.1944e-11
.param M13=8.2330e-02
.param K14=3.1678e-08
.param L14=4.3045e-11
.param M14=8.4164e-02
.param K15=7.0486e-12
.param L15=3.7647e-10
.param M15=3.6757e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GRJ43DR73A333KWJ1

.SubCkt GRJ43QR72E154KWJ1 [_net1] [_net2]
.param K01=1.5495e-07
.param M01=6.6667e+08
.param L02=3.6430e-10
.param M03=2.2322e-02
.param K04=1.5580e-05
.param M04=1.2364e+02
.param K05=1.8063e-05
.param M05=2.4400e+01
.param K06=1.4929e-05
.param M06=5.5295e+00
.param K07=1.3628e-05
.param M07=1.0452e+00
.param K08=1.5771e-05
.param M08=1.3222e-01
.param K09=1.0958e-05
.param M09=3.3292e-02
.param L10=5.4177e-11
.param M10=1.9606e-01
.param L11=1.7174e-10
.param M11=7.8296e-02
.param K12=4.0999e-07
.param L12=4.0599e-11
.param M12=2.3003e-02
.param K13=2.6289e-07
.param L13=2.0057e-11
.param M13=1.8351e-02
.param K14=1.1147e-11
.param L14=1.9151e-10
.param M14=1.4077e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GRJ43QR72E154KWJ1

.SubCkt GRJ43DR72E224KWJ1 [_net1] [_net2]
.param K01=2.3323e-07
.param M01=4.5455e+08
.param L02=3.7115e-10
.param M03=1.5505e-02
.param K04=2.5225e-05
.param M04=6.5913e+01
.param K05=2.7845e-05
.param M05=1.4656e+01
.param K06=2.3554e-05
.param M06=3.2956e+00
.param K07=2.1015e-05
.param M07=6.6089e-01
.param K08=2.8850e-05
.param M08=9.9270e-02
.param K09=1.6451e-05
.param M09=3.0662e-02
.param L10=4.2216e-11
.param M10=5.4800e-02
.param L11=1.5779e-10
.param M11=4.8635e-02
.param K12=6.5979e-07
.param L12=5.8485e-11
.param M12=3.4600e-02
.param K13=2.3347e-07
.param L13=5.2489e-11
.param M13=3.1982e-02
.param K14=9.1812e-12
.param L14=2.5326e-10
.param M14=2.2624e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GRJ43DR72E224KWJ1

.SubCkt GRJ43DR73A473KWJ1 [_net1] [_net2]
.param K01=4.9445e-08
.param M01=2.1277e+09
.param L02=3.7961e-10
.param M03=2.5454e-02
.param K04=7.8264e-06
.param M04=2.7947e+02
.param K05=7.5094e-06
.param M05=8.2416e+01
.param K06=6.9348e-06
.param M06=1.7704e+01
.param K07=6.7047e-06
.param M07=3.9505e+00
.param K08=5.7894e-06
.param M08=8.8573e-01
.param K09=5.1064e-06
.param M09=2.0915e-01
.param K10=3.3548e-06
.param M10=4.3055e-02
.param L11=4.7051e-11
.param M11=1.4622e-01
.param L12=1.1250e-10
.param M12=1.3187e-01
.param K13=1.2455e-07
.param L13=6.9551e-11
.param M13=1.1216e-01
.param K14=3.6142e-08
.param L14=8.3178e-11
.param M14=1.0518e-01
.param K15=1.3876e-11
.param L15=1.3400e-10
.param M15=1.0974e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GRJ43DR73A473KWJ1

.SubCkt GRJ43DR72E334KWJ1 [_net1] [_net2]
.param K01=3.5164e-07
.param M01=3.0303e+08
.param L02=2.3648e-20
.param M03=1.4709e-02
.param K04=3.6992e-05
.param M04=5.1610e+01
.param K05=3.2978e-05
.param M05=2.0548e+01
.param K06=2.7550e-05
.param M06=4.3278e+00
.param K07=2.5647e-05
.param M07=8.6426e-01
.param K08=3.3252e-05
.param M08=1.4759e-01
.param K09=2.5717e-05
.param M09=2.2640e-02
.param L10=7.0412e-10
.param M10=1.7137e+02
.param L11=2.5352e-11
.param M11=7.5057e-02
.param L12=3.2125e-10
.param M12=5.4476e-02
.param K13=3.5705e-11
.param L13=8.1862e-11
.param M13=8.7204e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net2 {K13}
L13 _net1213 _net2 {L13}
R13 _net1213 _net2 {M13}
.ends GRJ43DR72E334KWJ1

.SubCkt GRJ43DR72E474KWJ1 [_net1] [_net2]
.param K01=4.8053e-07
.param M01=2.1277e+08
.param L02=4.2301e-10
.param M03=9.3901e-03
.param K04=5.3198e-05
.param M04=3.6281e+01
.param K05=4.8170e-05
.param M05=1.2679e+01
.param K06=4.2563e-05
.param M06=2.5875e+00
.param K07=3.8014e-05
.param M07=5.9385e-01
.param K08=5.2224e-05
.param M08=9.1537e-02
.param K09=3.4907e-05
.param M09=1.9746e-02
.param L10=2.1859e-11
.param M10=1.5331e-01
.param L11=1.6921e-10
.param M11=4.0655e-02
.param L12=5.0274e-11
.param M12=2.6247e-02
.param K13=8.6770e-07
.param L13=9.6353e-11
.param M13=3.2200e-02
.param K14=5.8166e-07
.param L14=5.3500e-11
.param M14=2.6327e-02
.param K15=2.3722e-11
.param L15=8.7675e-11
.param M15=5.6464e+00
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GRJ43DR72E474KWJ1

.SubCkt GRJ43QR72J683KWJ1 [_net1] [_net2]
.param K01=7.2569e-08
.param M01=1.4706e+09
.param L02=3.7817e-10
.param M03=2.0940e-02
.param K04=6.8492e-06
.param M04=1.0402e+02
.param K05=2.7981e-05
.param M05=2.4506e+01
.param K06=9.5719e-06
.param M06=1.5728e+01
.param K07=7.2849e-06
.param M07=4.7042e+00
.param K08=7.0664e-06
.param M08=9.8506e-01
.param K09=6.2278e-06
.param M09=2.3782e-01
.param K10=3.5868e-06
.param M10=5.2081e-02
.param L11=8.7722e-11
.param M11=1.0857e-01
.param L12=2.4221e-11
.param M12=8.5267e-02
.param K13=1.9020e-07
.param L13=4.8243e-11
.param M13=7.8467e-02
.param K14=3.1723e-08
.param L14=9.7389e-11
.param M14=9.2117e-02
.param K15=1.7515e-11
.param L15=1.2650e-10
.param M15=1.2985e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GRJ43QR72J683KWJ1
